US07247734B2
6-Chloro-3-(4-methoxy-phenyl)-2,8-dimethyl-4H-chromene-4,7-diol (1 eq) was taken up in a 1:1 solution of EtOH:Hydrazine hydrate and heated under microwave conditions (120° C., 300 sec). The solution was concentrated in vacuo, residue quenched with cold water, extracted with ethyl acetate and purified by flash chromatography (neat DCM). The yellow oil was then triturated with ether:hexane to give 4-chloro-6-[4-(4-methoxy-phenyl)-5-methyl-1H-pyrazol-3-yl]-2-methyl-benzene-1,3-diol as a solid.

reactant | 6-Chloro-3-(4-methoxy-phenyl)-2,8-dimethyl-4H-chromene-4,7-diol | 1 eq | ClC=1C=C2C(C(=C(OC2=C(C1O)C)C)C1=CC=C(C=C1)OC)O | C18H17ClO4
reactant | Hydrazine hydrate | O.NN
solvent | EtOH | CCO | C2H6O
product | 4-chloro-6-[4-(4-methoxy-phenyl)-5-methyl-1H-pyrazol-3-yl]-2-methyl-benzene-1,3-diol | ClC1=C(C(=C(C(=C1)C1=NNC(=C1C1=CC=C(C=C1)OC)C)O)C)O | C18H17ClN2O3
